US07964618B2
A solution of sodium hydroxide (0.130 g, 3.25 mmol) in water (1.63 mL) was added dropwise to a stirred solution of methyl [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetate (293 mg, 0.65 mmol) in MeOH (5 mL) at 18° C., over a period of 1 minute. The resulting solution was stirred at 18° C. for 20 hours. The reaction mixture was adjusted to pH 4.5 with 2M HCl and the reaction mixture was diluted with EtOAc (50 mL), and washed sequentially with water (20 mL) and saturated brine (20 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The residue was dissolved in DCM (10 ml) and the slight suspension filtered through a nylon millipore filter to remove the solid. Evaporation gave the product, [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetic acid (281 mg, 100%), as a white solid

reactant | sodium hydroxide | 3.25 mmol, 0.130 g | [OH-].[Na+]
reactant | methyl [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetate | 0.65 mmol, 293 mg | CN(C(=O)C=1C=CC(=NC1SCCC)N1C[C@@H](CCC1)CC(=O)OC)C1CCOCC1 | C23H35N3O4S
reactant | HCl | 2M | Cl | ClH
solvent | water | 1.63 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetic acid | 281 mg, 100% | CN(C(=O)C=1C=CC(=NC1SCCC)N1C[C@@H](CCC1)CC(=O)O)C1CCOCC1 | C22H33N3O4S
